US07732160B2
Synthesis of Compound (2), (S)-2-(3-methoxy-phenyl)-1-methyl-ethylamine
A 500 ml Parr bottle was charged with 550 mg of 10% Pd/C and a solution of 5.0 g (0.0186 mol) of compound (1) in 100 ml of methanol and hydrogenated at 50 PSI for 48 hrs. The catalyst was filtered off through CELITE and the filtrate was concentrated at reduced pressure to a yellow oil. This was purified by flash chromatography on a short column of silica gel (4 cm W, 5 cm H) using 10% methanol. CH2Cl2 to remove residual catalyst to yield 2.84 g of yellow oil. This was dissolved in CH2Cl2 and filtered to remove residual silica gel, then concentrated at reduced pressure and pumped at high-vacuum overnight to yield 2.5 g of yellow oil. 1H-NMR (CDCl3) compatible; LC-MS: tR 8.05 min (Chiralcel OD-RH, Daicel Chemical Industries; gradient of 5% (at 0 min) to 85% (at 17.5 min) of 0.1% TFA/acetonitrile in 0.1% TFA/water; 0.5 mL/min flow rate), observed M+H 166.1, one peak; HPLC: tR 30.0 min (d-isomer), 33.7 min (l-isomer), ratio d/l=97.2/2.8 at 200 nm (Crownpak CR (+), Daicel Chemical Industries; isocratic 1 ml/min of aq perchloric acid pH 1.35 (˜0.2%) containing 5% MeOH); [α]D +31.7° (589 nm, c=1, CHCl3).

reactant | TFA acetonitrile | C(=O)(C(F)(F)F)O.C(C)#N
reactant | Crownpak CR | C1COCCOCCOC2=C(C3=CC=CC=C3C=C2C4=CC=CC=C4)C5=C(C(=CC6=CC=CC=C65)C7=CC=CC=C7)OCCOCCO1 | C42H40O6
reactant | perchloric acid | pH 1.35 | Cl(=O)(=O)(=O)O | ClHO4
reactant | MeOH | CO | CH4O
solvent | TFA water | C(=O)(C(F)(F)F)O.O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (S)-2-(3-methoxy-phenyl)-1-methyl-ethylamine | COC=1C=C(C=CC1)C[C@H](C)N | C10H15NO
